US08377970B2
N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-4-yl)acetamide hydrochloride
Following the general procedure-1, N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-4-yl)acetamide (89 mg) was prepared from 2-(pyridin-4-yl)acetic acid (104 mg, 0.60 mmol) and intermediate 27 (120 mg, 0.50 mmol) as an off-white solid. This amide was dissolved in saturated HCl in diethyl ether at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (12 mg). M.P. 175-181° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.75 (s, 1H), 8.86 (d, J 6.2, 2H), 8.04 (d, J 5.8, 2H), 7.71 (d, J 8.8, 2H), 7.51 (d, J 8.8, 2H), 5.78 (s, 1H), 4.12 (s, 2H), 1.84-1.72 (m, 2H), 0.91-0.80 (m, 4H), 0.66-0.60 (m, 4H). MS (m/z): 393.09 [M−H]−.

reactant | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-4-yl)acetamide | 89 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(CC1=CC=NC=C1)=O | C22H22N4O
reactant | 2-(pyridin-4-yl)acetic acid | 0.60 mmol, 104 mg | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-4-yl)acetamide hydrochloride | 12 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(CC1=CC=NC=C1)=O | InChI=1S/C22H22N4O.ClH/c27-22(13-15-9-11-23-12-10-15)24-18-5-7-19(8-6-18)26-21(17-3-4-17)14-20(25-26)16-1-2-16;/h5-12,14,16-17H,1-4,13H2,(H,24,27);1H
